US07351719B2
Z23d) (4-bromomethyl-phenyl)-acetonitrile
0.86 mL (9 mmol) of phosphorus tribromide are added dropwise to a solution of 2.6 g (17.66 mmol) of (4-hydroxymethyl-phenyl)-acetonitrile in 25 mL MTBE at 0° C. After the reaction has ended the reaction mixture is combined with water at RT, the organic phase is separated off and these are extracted successively with sodium hydrogen carbonate solution and water. The organic phase is dried over magnesium sulphate and the solvent is distilled off using the rotary evaporator.

reactant | phosphorus tribromide | 9 mmol, 0.86 mL | P(Br)(Br)Br | Br3P
reactant | (4-hydroxymethyl-phenyl)-acetonitrile | 17.66 mmol, 2.6 g | OCC1=CC=C(C=C1)CC#N | C9H9NO
reactant | water | O | H2O
solvent | MTBE | 25 mL | CC(C)(C)OC | C5H12O
product | (4-bromomethyl-phenyl)-acetonitrile | BrCC1=CC=C(C=C1)CC#N | C9H8BrN
